US04120691
N-[(5,6-Dimethyl-1,2,4-triazin-3-yl)aminocarbonyl]benzenesulfonamide
To a dry, well stirred mixture of 6 g of 3-amino-5,6-dimethyl-1,2,4-triazine in 100 ml of methylene chloride at ambient temperature and pressure was added 9 g of benzenesulfonyl isocyanate. The mixture was stirred for 4 hours and the precipitated product removed by filtration. After washing with 1-chlorobutane, the product melted at 155°-158°.

reactant | 3-amino-5,6-dimethyl-1,2,4-triazine | 6 g | NC=1N=NC(=C(N1)C)C | C5H8N4
reactant | benzenesulfonyl isocyanate | 9 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(5,6-Dimethyl-1,2,4-triazin-3-yl)aminocarbonyl]benzenesulfonamide | CC=1N=C(N=NC1C)NC(=O)NS(=O)(=O)C1=CC=CC=C1 | C12H13N5O3S
